US04245107
380 mg. of 3-thienylsulfinylacetic acid of the R form and 7-amino-3-azidomethyl-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 410 mg. of 7-(3-thienylsulfinylacetamido)-3-azidomethyl-3-cephem-4-carboxylic acid of the R form were obtained.

reactant | 3-thienylsulfinylacetic acid | S1C=C(C=C1)S(=O)CC(=O)O | C6H6O3S2
reactant | 7-amino-3-azidomethyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)O)C1=O | C8H9N5O3S
product | 7-(3-thienylsulfinylacetamido)-3-azidomethyl-3-cephem-4-carboxylic acid | S1C=C(C=C1)S(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)O)C1=O | C14H13N5O5S3
